US05122525
cis-7-Hydroxymethyl-2-(2-pyridyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A mixture consisting of title product of Preparation 5 (9.10 g; 53.4 mmol), sodium carbonate (14.1 g; 0.13 mol), and 2-bromopyridine (25.5 ml; 42.3 g; 0.27 mol) in isoamylalcohol (25 ml) was refluxed for 72 hours. The reaction was filtered while hot, and the filter cake washed with 50 ml of methylene chloride. The filtrate was concentrated in vacuo to an oil, which was taken up in 100 ml ethyl acetate. An equal volume of water was added, and the pH of the well-stirred mixture was adjusted to 11.5 (saturated sodium carbonate). The organic phase was separated, treated with activated carbon, dried (anhydrous sodium sulfate), and concentrated in vacuo to an oil. Flash chromatography of the entire sample (125 g silica gel, 2-63 mesh; elution with methylene chloride/methanol=7:3 by volume) with TLC monitoring of fractions [product Rf =0.26 (methylene chloride:methanol 9:1 in volume), detection by U.V. and Dragendorf's spray] afforded 7.50 g (56.6% yield) of the title compound as a pale yellow amorphous solid.

reactant | sodium carbonate | 0.13 mol, 14.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromopyridine | 0.27 mol, 25.5 ml, 42.3 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | isoamylalcohol | 25 ml | C(CC(C)C)O | C5H12O
product | cis-7-Hydroxymethyl-2-(2-pyridyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | OC[C@@H]1CC[C@@H]2N(CCN(C2)C2=NC=CC=C2)C1 | C14H21N3O
